US09107411B2
tert-Butyl {[6-chloro-2-({2,2,2-trifluoro-1-[3-(trifluoromethyl)phenyl]ethyl}carbamoyl)-1H-indol-5-yl]methyl}carbamate (90% pure; 0.74 g, 1.21 mmol) was dissolved under argon at 0° C. in N,N-dimethylformamide (12.5 ml). Sodium hydride (60%; 0.053 g, 1.33 mmol) was added and the mixture was stirred while cooling with ice for 2 h. Subsequently, iodoethane (0.19 g, 1.21 mmol) was added dropwise. The reaction mixture was thawed while stirring within 16 h. Water and ethyl acetate were added and the phases were separated. The organic phase was washed with saturated sodium chloride solution and dried over magnesium sulphate, and the solvent was removed under reduced pressure. The residue was chromatographed with cyclohexane/ethyl acetate (4/1) and gave 0.42 g (60% of theory) of tert-butyl {[6-chloro-1-ethyl-2-({2,2,2-trifluoro-1-[3-(trifluoromethyl)phenyl]ethyl}carbamoyl)-1H-indol-5-yl]methyl}carbamate.

reactant | tert-Butyl {[6-chloro-2-({2,2,2-trifluoro-1-[3-(trifluoromethyl)phenyl]ethyl}carbamoyl)-1H-indol-5-yl]methyl}carbamate | 1.21 mmol, 0.74 g | ClC1=C(C=C2C=C(NC2=C1)C(NC(C(F)(F)F)C1=CC(=CC=C1)C(F)(F)F)=O)CNC(OC(C)(C)C)=O | C24H22ClF6N3O3
reactant | Sodium hydride | 1.33 mmol, 0.053 g | [H-].[Na+]
reactant | iodoethane | 1.21 mmol, 0.19 g | ICC | C2H5I
reactant | Water | O | H2O
solvent | N,N-dimethylformamide | 12.5 ml | CN(C=O)C | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | tert-butyl {[6-chloro-1-ethyl-2-({2,2,2-trifluoro-1-[3-(trifluoromethyl)phenyl]ethyl}carbamoyl)-1H-indol-5-yl]methyl}carbamate | 0.42 g, 60% | ClC1=C(C=C2C=C(N(C2=C1)CC)C(NC(C(F)(F)F)C1=CC(=CC=C1)C(F)(F)F)=O)CNC(OC(C)(C)C)=O | C26H26ClF6N3O3
